US07964623B2
8,8-Dimethyl-6-[(2-phenylethyl)amino]-1,6,7, 8-tetrahydrochromeno[7,6-e][1,3,4]oxathiazine-7-ol 2,2-dioxide
To a solution of 1-Chloro-N-{(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl}methanesulfonamide (220 mg, 0.50 mmol) in methanol (2.2 mL), 1 mol/L sodium hydroxide aqueous solution (1.00 mL, 1.00 mmol) was added, and the resulting mixture was stirred at room temperature for 3 hours. Then, the temperature was raised to 50° C., and the mixture was further stirred for 2 hours. Upon the completion of the reaction, the solution was cooled on standing, neutralized with saturated ammonium chloride aqueous solution, extracted 4 times with chloroform, and dried over anhydrous sodium sulfate. The solvent was distilled off and the aimed product was obtained (yield: 37%).

reactant | 1-Chloro-N-{(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl}methanesulfonamide | 0.50 mmol, 220 mg | ClCS(=O)(=O)NC1=CC2=C([C@@H]([C@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C=C1O | C20H25ClN2O5S
reactant | sodium hydroxide | 1.00 mmol, 1 mol/L, 1.00 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 2.2 mL | CO | CH4O
product | 8,8-Dimethyl-6-[(2-phenylethyl)amino]-1,6,7, 8-tetrahydrochromeno[7,6-e][1,3,4]oxathiazine-7-ol 2,2-dioxide | yield: 37% | CC1(OC2=CC=3NS(COC3C=C2C(C1O)NCCC1=CC=CC=C1)(=O)=O)C | C20H24N2O5S
